US07504508B2
To a suspension of 3-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)propanoic acid (50 mg, 0.10 mmol, 1 equ.) in methylene chloride (0.5 mL) was added a 2M solution of oxalyl chloride in methylene chloride (82 uL, 0.16 mmol, 1.6 equ.). Reaction mixture was stirred at room temperature for 30 m., and then concentrated to give 3-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)propanoyl chloride. To a solution of the preformed acid chloride in methylene chloride (0.5 mL) was added methyl-alfG-amino-isobutyrate hydrochloride (31 mg, 0.20 mmol, 2 equ.) and diisopropylethylamine (52 uL, 0.30 mmol, 3 equ.). Reaction mixture was stirred at room temperature for 20 h. and concentrated. The residue was dissolved in ethyl acetate and washed with water, brine, and then dried over magnesium sulfate, filtered and concentrated. The crude residue was purified by silica gel chromatography (ethyl acetate/hexane: 4/1 to 10/0 gradient) to afford methyl 2-{[3-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)propanoyl]amino}-2-methylpropanoate (105 mg, 46%).

reactant | 3-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)propanoic acid | 0.10 mmol, 50 mg | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)CCC(=O)O)C)C1=CC=C(C=C1)Cl | C28H27ClN2O4
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.16 mmol, 82 uL | C(Cl)Cl | CH2Cl2
product | 3-(4-{[(2S,4R)-4-[acetyl(4-chlorophenyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenyl)propanoyl chloride | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)CCC(=O)Cl)C)C1=CC=C(C=C1)Cl | C28H26Cl2N2O3
